US08034949B2
To a solution of 4-bromobenzylalcohol (561 mg) in methylene chloride (3 mL) was added [bis-(2-methoxyethyl)amino]sulfur trifluoride (590 μL) over a period of 5 minutes under ice-cooling and the mixture was stirred at the same temperature for 1 hours and then stirred at room temperature for 1 hour. The reaction mixture was concentrated in vacuo and the resultant crude product was purified by a column chromatography on silica gel (solvent; hexane/ethyl acetate=100:0→95:5) to give 1-bromo-4-fluoromethyl-benzene (340 mg, yield: 60%).

reactant | 4-bromobenzylalcohol | 561 mg | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | [bis-(2-methoxyethyl)amino]sulfur trifluoride | 590 μL | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-bromo-4-fluoromethyl-benzene | 340 mg, yield: 60% | BrC1=CC=C(C=C1)CF | C7H6BrF
